US05371101
In the same manner as in Reference Example 5, starting from 1.66 g of (1S)-1-[(2R)-2-(2,4-difluorophenyl)-2-oxiranyl]ethanol and 1.26 g of 1-(4-methoxyphenyl)-2(1H,3H)-imidazolone, 1-[(1R,2S)-2-(2,4-difluorophenyl)-2,3-epoxy-1-methylpropyl]-3-(4-methoxyphenyl)-2(1H,3H)-imidazolone (617 mg) was obtained as colorless prisms.

reactant | (1S)-1-[(2R)-2-(2,4-difluorophenyl)-2-oxiranyl]ethanol | 1.66 g | FC1=C(C=CC(=C1)F)[C@]1(OC1)[C@H](C)O | C10H10F2O2
reactant | 1-(4-methoxyphenyl)-2(1H,3H)-imidazolone | 1.26 g | COC1=CC=C(C=C1)N1C(NC=C1)=O | C10H10N2O2
product | 1-[(1R,2S)-2-(2,4-difluorophenyl)-2,3-epoxy-1-methylpropyl]-3-(4-methoxyphenyl)-2(1H,3H)-imidazolone | 617 mg | FC1=C(C=CC(=C1)F)[C@]1([C@@H](C)N2C(N(C=C2)C2=CC=C(C=C2)OC)=O)CO1 | C20H18F2N2O3
